US07199239B2
Intermediate 85: Ethyl [2-ethyl-4-(hydroxymethyl)phenoxy]acetate
To a solution of 2-ethyl-4-(hydroxymethyl)phenol (3.67 g, 24.1 mmol) in anhydrous acetonitrile (125 mL) was added caesium carbonate (8.65 g, 26.6 mmol), the reaction mixture was then flushed with nitrogen and cooled to 0° C. before addition of ethyl bromoacetate (2.68 mL, 24.1 mmol). The reaction mixture was allowed to gradually attain room temperature and stirred for 18 h. Further ethylbromoacetate (0.26 mL, 2.4 mmol) was added and stirring continued for 4 h. The reaction mixture was diluted with water (100 mL) and then extracted EtOAc (2×100 mL). The combined organic extracts were dried (MgSO4) filtered and evaporated. Purification by Biotage™ chromatography (Silica, 90 g) eluting 4:1 cyclohexane:EtOAc, then EtOAc afforded the title compound as a pale yellow gum (3.54 g).

reactant | 2-ethyl-4-(hydroxymethyl)phenol | 24.1 mmol, 3.67 g | C(C)C1=C(C=CC(=C1)CO)O | C9H12O2
reactant | caesium carbonate | 26.6 mmol, 8.65 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 24.1 mmol, 2.68 mL | BrCC(=O)OCC | C4H7BrO2
reactant | ethylbromoacetate | 2.4 mmol, 0.26 mL | C(C)OC(CBr)=O | C4H7BrO2
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 125 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
product | Ethyl [2-ethyl-4-(hydroxymethyl)phenoxy]acetate | 3.54 g | C(C)C1=C(OCC(=O)OCC)C=CC(=C1)CO | C13H18O4
